US08633173B2
(1-Ethyl-1H-pyrazol-4-yl)-[8-(4-methanesulfonyl-phenoxy)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from 2-chloro-8-(4-methanesulfonyl-phenoxy)-[1,2,4]triazolo[1,5-a]pyridine (0.065 g, 0.20 mmol) and 1-ethyl-1H-pyrazol-4-ylamine (0.029 g, 0.26 mmol) in a manner analogous to Example 2d. Product was isolated as a tan solid (45 mg, 56%). MP=183-185° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.27 (s, 1H), 8.67 (d, J=6.51 Hz, 1H), 7.89 (d, J=7.72 Hz, 2H), 7.68 (s, 1H), 7.45 (d, J=7.74 Hz, 1H), 7.35 (s, 1H), 7.22 (d, J=7.29 Hz, 2H), 7.00 (t, J=7.29 Hz, 1H), 4.055 (q, J=7.18 Hz, 2H), 3.20 (s, 3H), 1.32 (t, J=7.06 Hz, 3H). MS=399 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenoxy)-[1,2,4]triazolo[1,5-a]pyridine | 0.20 mmol, 0.065 g | ClC1=NN2C(C(=CC=C2)OC2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O3S
reactant | 1-ethyl-1H-pyrazol-4-ylamine | 0.26 mmol, 0.029 g | C(C)N1N=CC(=C1)N | C5H9N3
product | (1-Ethyl-1H-pyrazol-4-yl)-[8-(4-methanesulfonyl-phenoxy)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | C(C)N1N=CC(=C1)NC1=NN2C(C(=CC=C2)OC2=CC=C(C=C2)S(=O)(=O)C)=N1 | C18H18N6O3S
